US08026261B2
Preparation of 2-difluoromethyl-5-hydroxy-1-methyl-1H-pyridin-4-one
A mixture of 5-benzyloxy-2-difluoromethyl-1-methyl-1H-pyridin-4-one (1.90 g, 7.16 mmol) and 10% Pd/C (190 mg) in methanol (60 mL) was hydrogenated under a hydrogen atmosphere at 15 psi of pressure in a Parr apparatus for 25 min. The mixture was diluted with methanol (180 mL), sonicated for 15 min, and then filtered through a pad of CELITE™ (pre-treated with dilute HCl and washed to neutral with deionized water). The volume of the filtrate was reduced using a rotary evaporator until a solid precipitated out. The mixture was diluted with 2 mL of methanol and the solid was collected by suction filtration. The solid was thoroughly washed with ether, and then dried in a vacuum oven to afford the title product (1.00 g, 79% yield). HPLC purity (peak area percent) of the product is 99.2% at λ=288 nm using HPLC Method 1 as described above. 1H NMR (400 MHz, DMSO-D6) δ (ppm): 7.56 (s, 1H), 7.12 (t, J=52.7 Hz, 1H, CF2H), 6.47 (s, 1H), 3.70 (s, 3H, N—CH3); MS-ESI (m/z): 176.5 [M+1]+, 126.2; Anal. Calcd. for C7H7F2NO2: C, 48.01; H, 4.03; N, 8.00%. Found: C, 48.15; H, 4.14; N, 7.88%.

reactant | 5-benzyloxy-2-difluoromethyl-1-methyl-1H-pyridin-4-one | 7.16 mmol, 1.90 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(F)F)=O | C14H13F2NO2
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 180 mL | CO | CH4O
catalyst | Pd/C | 190 mg | [Pd] | Pd
product | 2-difluoromethyl-5-hydroxy-1-methyl-1H-pyridin-4-one | 1.00 g, 79% yield | FC(C=1N(C=C(C(C1)=O)O)C)F | C7H7F2NO2
